US07915297B2
2) Step 2: Preparation of 4-acetyl-piperazine-1-carboxylic acid 5-furan-2-yl-isoxazol-3-ylmethyl ester (Derivative (252))
To a solution of 30 mg of imidazole-1-carboxylic acid 5-furan-2-yl-isoxazol-3-ylmethyl ester in 1 mL of methylene chloride was added 16 mg of 1-piperazin-1-yl-ethanone. After stirring at room temperature for 4 hrs, the reaction mixture was concentrated under reduced pressure. The concentrate was purified by column chromatography to afford 30 mg of the title compound. (Yield: 79%).

reactant | imidazole-1-carboxylic acid 5-furan-2-yl-isoxazol-3-ylmethyl ester | 30 mg | O1C(=CC=C1)C1=CC(=NO1)COC(=O)N1C=NC=C1 | C12H9N3O4
reactant | 1-piperazin-1-yl-ethanone | 16 mg | N1(CCNCC1)C(C)=O | C6H12N2O
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 4-acetyl-piperazine-1-carboxylic acid 5-furan-2-yl-isoxazol-3-ylmethyl ester | 30 mg, Yield: 79% | O1C(=CC=C1)C1=CC(=NO1)COC(=O)N1CCN(CC1)C(C)=O | C15H17N3O5
